US03950333
3-Pyridazineacetic acid is esterified with anhydrous ethanolic hydrogen chloride and the resulting ethyl ester is reduced with lithium aluminium hydride in tetrahydrofuran to give 3-(2-hydroxyethyl)pyridazine. Treating this hydroxyethyl compound with thionyl chloride gives 3-(2-chloroethyl)pyridazine.

reactant | 3-Pyridazineacetic acid | N1=NC(=CC=C1)CC(=O)O | C6H6N2O2
reactant | hydrogen chloride | Cl | ClH
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-hydroxyethyl)pyridazine | OCCC=1N=NC=CC1 | C6H8N2O
